US05807864
3-[1-Allyl-3-(2,6-dimethylphenyl)-thioureido]propionic acid
A mixture of the 3-allylaminopropionic acid (21.9 g), 2,6-dimethylphenyl-isothiocyanate (19 g), triethylamine (20 g) and methylene chloride (200 mL) was heated at reflux for 3 hours. The cooled reaction mixture was extracted with 1N NaOH (150 mL). The aqueous layer was separated and acidified with 2N HCl. The solid was collected by filtration. 13.5 g of the title compound was obtained and used without further purification for the reaction in step 3.

reactant | 3-allylaminopropionic acid | 21.9 g | C(C=C)NCCC(=O)O | C6H11NO2
reactant | 2,6-dimethylphenyl-isothiocyanate | 19 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-Allyl-3-(2,6-dimethylphenyl)-thioureido]propionic acid | 13.5 g | C(C=C)N(C(=S)NC1=C(C=CC=C1C)C)CCC(=O)O | C15H20N2O2S
